US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-thiophen-2-ylethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-thiophen-2-ylethylamine. The product was purified by chromatography on silica gel eluting with methanol/dichloromethane (3:97) to give the title compound as a yellow solid. δH (CD3OD): 3.16 (2H, t), 3.65 (2H, t), 6.89–6.94 (2H, m), 7.03 (1H, s), 7.20 (1H, d), 7.66 (1H, s), 8.57 (1H, s); m/z (ES+)=306 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-thiophen-2-ylethylamine | S1C(=CC=C1)CCN | C6H9NS
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-thiophen-2-ylethyl)amide | S1C(=CC=C1)CCNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C14H12ClN3OS
